US07781463B2
4-Benzyl-1,2,4-thiadiazolidine-3,5-dione (Compound 42)
Reagents: Benzyl isothiocyanate (0.81 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), ethyl isocyanatoformate (0.69 ml, 6.5 mmol).

reactant | Benzyl isothiocyanate | 6.5 mmol, 0.81 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | ethyl isocyanatoformate | 6.5 mmol, 0.69 ml | N(=C=O)C(=O)OCC | C4H5NO3
product | 4-Benzyl-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(NSC1=O)=O | C9H8N2O2S
